US04923975
Validoxylamine G (100 mg) was dissolved in 0.05 M phosphate buffer (pH 7.0) (20 mL) and wet cells of Flavobacterium saccharophilum IFO 13984 (about 2 g) were added to the solution, followed by incubation at 27° C. for 24 hours with stirring. The reaction mixture was centrifuged for removal of cells, and the supernatant was adsorbed onto a column (50 mL) of Amberlite IRC-50 (NH4+ form, manufactured by Rohm & Haas Co.), followed by washing with water and elution aqueous ammonia. The eluate was concentrated to dryness under reduced pressure, and the residue was adsorbed again onto a column (50 mL) of Amberlite IRC-50 (NH4+ form) and eluted with 0.1N aqueous ammonia. In succession to the fractions containing valienamine (eluate fractions 120-140 mL), the fractions containing valiolamine were eluted (eluate fractions 340-430 mL). The fractions containing valiolamine were concentrated to dryness under reduced pressure, and the residue was submitted to column chromatography on Dowex 1× 2 (OH- form, manufactured by Dow Chemicals Co.; 2 mL) followed by concentration of the eluate to dryness under reduced pressure, to give white powders of valiolamine (35 mg).

reactant | Validoxylamine G | 100 mg | C1C(C(C(C(C1(CO)O)O)O)O)NC2C=C(C(C(C2O)O)O)CO | C14H25NO9
solvent | phosphate | 0.05 M, 20 mL, pH 7.0 | P(=O)([O-])([O-])[O-]
product | valiolamine | 35 mg | C1[C@@H]([C@@H]([C@H]([C@@H]([C@]1(CO)O)O)O)O)N | C7H15NO5
